US06423710B1
1-((R)-2,2-Dimethyl-1,3-dioxolan-4-yl)-1-[(3S,4S)-3-((R)-1-hydroxyethyl)-4-(3-hydroxy-4-methoxyphenyl)-3-methylpyrrolidin-1-yl)methanone
A round bottom flask equipped with a stir bar and rubber septum was charged with 5-[4-(1-hydroxyethyl)-4-methylpyrrolidin-3-yl)-2-methoxyphenol (2.4 g, 9.55 mmol), dry CH2Cl2 (50 mls), and DIEA (3.49 mls, 20.1 mmol) under a nitrogen atmosphere. The mixture was chilled to 0° C. and (S)-2.2-dimethyl-[1,3]dioxolane-4-carbonyl chloride (3.14 g, 19.1 mmol) in 15 ml of CH2Cl2 was added dropwise by syringe. The reaction mixture was allowed to gradually warm to room temperature over a 16-hour period. The mixture then was diluted with 50 ml of CH2Cl2, washed with 1N HCl (2×50 ml), saturated aqueous NaHCO3 (1×50 ml), dried over Na2SO4, and concentrated to 3.9 g of a tan foam. The material was taken up in 100 ml CH3OH and chilled to 0° C. Three equivalents of aqueous 1N LiOH then were added (29 ml, 29.0 mmol), the mixture was stirred at 0° C. for 2 hours, then warmed to room temperature for 2 hours. The reaction mixture next was concentrated under reduced pressure with the bath temperature at 30° C. to remove CH3OH. The remaining aqueous material was neutralized with saturated NH4Cl to pH 7 and extracted with EtOAc (2×100 ml). The extracts were dried over Na2SO4, and concentrated to 2.74 g of a tan foam (76%).

reactant | 5-[4-(1-hydroxyethyl)-4-methylpyrrolidin-3-yl)-2-methoxyphenol | 9.55 mmol, 2.4 g | OC(C)C1(C(CNC1)C=1C=CC(=C(C1)O)OC)C | C14H21NO3
reactant | DIEA | 20.1 mmol, 3.49 mls | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-2.2-dimethyl-[1,3]dioxolane-4-carbonyl chloride | 19.1 mmol, 3.14 g | CC1(OC[C@H](O1)C(=O)Cl)C | C6H9ClO3
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mls | C(Cl)Cl | CH2Cl2
product | 1-((R)-2,2-Dimethyl-1,3-dioxolan-4-yl)-1-[(3S,4S)-3-((R)-1-hydroxyethyl)-4-(3-hydroxy-4-methoxyphenyl)-3-methylpyrrolidin-1-yl)methanone | CC1(OC[C@@H](O1)C(=O)N1C[C@@]([C@@H](C1)C1=CC(=C(C=C1)OC)O)(C)[C@@H](C)O)C | C20H29NO6
